US06169087A
To a stirred mixture of the above 6-formyl hexanoic acid Wang-resin ester (165 g, 0.16 mol) in dichloromethane (3.2 l) was added triethylamine (222 ml, 1.6 mol), tetrachloromethane (155 ml, 1.6 mol) and triphenylphosphine (168 g, 0.64 mol). The resulting mixture was stirred at room temperature for 16 h under an atmosphere of nitrogen. The resin was filtered off and washed with N,N-dimethylformamide, dichloromethane, methanol, dichloromethane and dried in a vacuum desiccator for 18 h which afforded 6-isocyano-hexanoic acid Wang-resin ester.

reactant | 6-formyl hexanoic acid | 0.16 mol, 165 g | C(=O)CCCCCC(=O)O | C7H12O3
reactant | triethylamine | 1.6 mol, 222 ml | C(C)N(CC)CC | C6H15N
reactant | tetrachloromethane | 1.6 mol, 155 ml | ClC(Cl)(Cl)Cl | CCl4
reactant | triphenylphosphine | 0.64 mol, 168 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 3.2 l | ClCCl | CH2Cl2
product | 6-isocyano-hexanoic acid | [N+](#[C-])CCCCCC(=O)O | C7H11NO2
